US04785019
Preparation of N-Cyanomethyl-N-trichloromethylthio-o-toluamide
To a stirred mixture of 5.0 g (0.029 mole) N-cyanomethyl-o-toluamide (the product of Example 10) and 5.8 g (0.031 mole) trichloromethylsulfenyl chloride in 125 ml methylene chloride, 3.6 g (0.036 mole) triethylamine in 25 ml methylene chloride were added dropwise over 40 minutes. The reaction mixture was stirred 30 minutes. The reaction mixture was washed three times with 75 ml water, dried over magnesium sulfate and stripped to give a brown oil. The oil did not crystallize when rubbed with hexane. The oil was column chromatographed through 125 g of silica gel, eluting with chloroform to give 5.6 g of a glass-like product which crystallized partly upon cooling to room temperature.

reactant | N-cyanomethyl-o-toluamide | 0.029 mole, 5.0 g | C(#N)CNC(=O)C=1C(=CC=CC1)C | C10H10N2O
reactant | trichloromethylsulfenyl chloride | 0.031 mole, 5.8 g | ClC(SCl)(Cl)Cl | CCl4S
reactant | triethylamine | 0.036 mole, 3.6 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 125 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | N-Cyanomethyl-N-trichloromethylthio-o-toluamide | 5.6 g | C(#N)CN(C(=O)C=1C(=CC=CC1)C)SC(Cl)(Cl)Cl | C11H9Cl3N2OS
